US07655666B2
2-Amino-4-ethyl-benzoic acid methyl ester
A solution of 2-nitro-4-vinyl-benzoic acid methyl ester (820 mg, 3.96 mmol) in MeOH (15 mL) was shaken under H2 (0.1 bar) in the presence of Pd/C (10%, 0.2 g) at 50° C. for 5 h. After cooling to r.t., the reaction mixture was filtered and the solvent was removed in vacuo to provide the title product (680 mg, 96%) which was used in the next step without further purification. ESI-MS: m/z 180.1 [M+H]+, rt 5.13 min

reactant | 2-nitro-4-vinyl-benzoic acid methyl ester | 3.96 mmol, 820 mg | COC(C1=C(C=C(C=C1)C=C)[N+](=O)[O-])=O | C10H9NO4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 2-Amino-4-ethyl-benzoic acid methyl ester | 680 mg, 96% | COC(C1=C(C=C(C=C1)CC)N)=O | C10H13NO2
